reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7]>>[O:1]([C@@:2]1([H:8])[C@@:3]2([H:9])[O:4][C@:5]1([H:10])[O:6]2)[H:7],71.5674213746192
[C:1]([N:2]([C:3]1=[C:7]=[C:6]([H:13])[N:5]([H:12])[N:4]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],40.152835988886224
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:7](=[C:6]=[C:4]=[O:5])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],94.34799342492312
[O:1]=[C:2]([C:3]#[N:4])[H:5]>>[O+:1](=[C-:2][H:5])[C:3]#[N:4],104.32100068755699
[C:1]([C:3]([C:2](=[O:4])[H:8])([H:9])[H:11])([H:5])([H:6])[H:7].[H:10][H:12]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([O:4][H:12])[H:8])([H:5])([H:6])[H:7],88.43986683076189
[C:1]([C:2]#[C:3][C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][H:11])([H:7])([H:8])[H:9].[C:4](=[O:5])=[N:6][H:10],68.349471610759
[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7]>>[O:1]([C:2]1=[N:3][C@@:4]1(/[N:5]=[N:6]/[H:9])[H:8])[H:7],113.084965511127
[C:1]([N+:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([O-:6])[H:15])[H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9],28.311419892278103
[N:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:10])[H:9])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[O:4][C-:5]=[N+:6]([H:9])[H:10])([H:7])[H:8],83.2427496847443
[N:1](=[C:2]=[C:3]([C@@:4]1([H:9])[C:5]([H:10])([H:11])[O:6]1)[H:8])[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7],40.38318469927749
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[C:6]([H:19])[H:20])[C:7]([H:21])([H:22])[H:23])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:17][H:18]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],79.9299000837178
[C:1]([C:2]([C:3](=[O:4])[N:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([N:5]([H:11])[H:12])([H:6])([H:7])[H:8].[C:2](=[C:3]=[O:4])([H:9])[H:10],115.23024486222299
[C:1]([C:2](=[C:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],8.823400958411206
[O:1]([C:2]([C:3]([C@:4]([O:5][H:15])([C:6](=[O:7])[H:14])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],37.181347514966866
[C:1]([C:2]([C:3]([N:4]([C-:5]=[O+:6][C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],51.89093071573579
[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7]>>[O:1]1[C@:2]2([H:7])[C:3](=[O:4])[C@@:5]1([H:8])[O:6]2,65.6996470288084
[N:1]([C@@:2]([C:3]1=[N:4][C:6]1([H:12])[H:13])([C:5](=[C:7]([H:14])[H:15])[H:11])[H:10])([H:8])[H:9]>>[N:1]([C@@:2]([C:3]#[N:4])([C:5]1([H:11])[C:6]([H:12])([H:13])[C:7]1([H:14])[H:15])[H:10])([H:8])[H:9],62.28540916070969
[C:1]([O:2][C@:3]1([C:5]([H:14])([H:15])[H:16])[C:4]([H:11])([H:13])/[C:6]1=[N:7]\[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10],72.4695382580073
[C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])[H:9].[O:1]([H:7])[H:8]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7],2.8601436103099047
[C:1]([C@@:2]([O+:3]=[C-:4][H:13])([O:7]/[C:5](=[N:6]\[H:14])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C:4]([H:12])([H:13])/[C:5](=[N:6]/[H:14])[O:7]1)([H:8])([H:9])[H:10],23.28175368747702
[O:1]([C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],28.0617949675158
[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7]>>[O:1]1[C:2]([H:8])([H:9])[C@:3]1([C:4]([C:5]([O:6][H:7])([H:13])[H:14])([H:11])[H:12])[H:10],62.1687272380342
[C:1]([C@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5][H:15])[H:10])([H:7])([H:8])[H:9].[O:6]([H:14])[H:16]>>[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],3.9382641823438007
[C:1]([C:2]([C:3](=[O:4])[C:5]([H:12])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[O:6]([H:13])[H:16]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],92.5495257633079
[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][N+:6]#[C-:5])=[C:4]([H:10])[H:11])([H:7])([H:8])[H:9],113.560141371797
